US08802864B2
d) (3S)-3-({4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-N,N-dimethyl-1-pyrrolidinecarboxamide
A solution of (3S)-3-{[4-(4-bromo-2-fluorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-N,N-dimethyl-1-pyrrolidinecarboxamide (0.146 mmol) in dioxane (2 mL) was treated with 4-methoxyphenylboronic acid (0.165 mmol), dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II)-dichloromethane adduct (10 mg), and 2M aq potassium carbonate (1 mL). The reaction mixture was purged with nitrogen, sealed, and stirred at 110° C. for 2 h. The solution was cooled to room temperature. The dioxane layer separated from the aqueous layer and was removed via pipette and passed through a plug of celite and sodium sulfate. The plug was washed with dioxane (4 mL). All dioxane filtrates were combined and concentrated in vacuo. Reverse phase HPLC (10-70% acetonitrile/water+0.1% NH4OH) was utilized in purifying the title compound (26 mg, 39%). MS(ES)+ m/e 440.0 [M+H]+.

reactant | (3S)-3-{[4-(4-bromo-2-fluorophenyl)-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl]methyl}-N,N-dimethyl-1-pyrrolidinecarboxamide | 0.146 mmol | BrC1=CC(=C(C=C1)N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)N(C)C)F | C16H19BrFN5O2
reactant | 4-methoxyphenylboronic acid | 0.165 mmol | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 2M, 1 mL | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | dichloro[1,1′-bis(diphenylphosphino)ferrocene]palladium(II) dichloromethane | 10 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].ClCCl
product | (3S)-3-({4-[3-fluoro-4′-(methyloxy)-4-biphenylyl]-5-oxo-4,5-dihydro-1H-1,2,4-triazol-3-yl}methyl)-N,N-dimethyl-1-pyrrolidinecarboxamide | FC=1C=C(C=CC1N1C(=NNC1=O)C[C@H]1CN(CC1)C(=O)N(C)C)C1=CC=C(C=C1)OC | C23H26FN5O3
